US06849639B2
Step C: Ethyl 3-{(l-(3-aminophenyl)-5-oxopyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoate
Ethyl 3-{(1-(3-nitrophenyl)-5-oxopyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoate was dissolved in THF/MeOH/H2O solution at 0° C. AcOH was added followed by activated Zn powder. The reaction was then stirred at room temperature for 5 hours. The Zn powder was filtered through a pad of celite. The filtrate was concentrated in vacuo and the residue was re-dissolved in EtOAc. A white precipitate formed and was removed by filtration. The organic solution was concentrated in vacuo to afforded yellow foam. MS (ES+): 397.0 (M+H)+.

reactant | Ethyl 3-{(1-(3-nitrophenyl)-5-oxopyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoate | [N+](=O)([O-])C=1C=C(C=CC1)N1CC(CC1=O)C(=O)NC(CC(=O)OCC)C=1C=NC=CC1 | C21H22N4O6
reactant | AcOH | CC(=O)O | C2H4O2
solvent | THF MeOH H2O | C1CCOC1.CO.O
catalyst | Zn | [Zn] | Zn
product | Ethyl 3-{(l-(3-aminophenyl)-5-oxopyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoate | NC=1C=C(C=CC1)N1CC(CC1=O)C(=O)NC(CC(=O)OCC)C=1C=NC=CC1 | C21H24N4O4
